US06921763B2
A mixture of N1-(4-bromophenyl)-2-fluoro-1-benzenecarbothioamide (1.56 g, 0.00505 mol), hydroxylamine hydrochloride (0.44 g, 0.00631 mol) and sodium bicarbonate (0.53 g, 0.00631 mol) was heated in absolute ethanol (25 mL) at reflux under nitrogen atmosphere for 14 hours. The reaction mixture was cooled to ambient temperature, the solvent was removed under reduced pressure and the residue partitioned between saturated solution of sodium bicarbonate in water (50 mL) and ethyl acetate (50 mL). The organic phase was washed with brine, dried with magnesium sulfate and concentrated. The residue was suspended in cold diethyl ether and the precipitate was collected by filtration and dried to yield N1-(4-bromophenyl)-2-fluoro-1-benzeneamidoxime (1.21 g, 0.00392 mol) as an off-white solid.

reactant | N1-(4-bromophenyl)-2-fluoro-1-benzenecarbothioamide | 0.00505 mol, 1.56 g | BrC1=CC=C(C=C1)NC(=S)C1=C(C=CC=C1)F | C13H9BrFNS
reactant | hydroxylamine hydrochloride | 0.00631 mol, 0.44 g | Cl.NO
reactant | sodium bicarbonate | 0.00631 mol, 0.53 g | C([O-])(O)=O.[Na+]
solvent | ethanol | 25 mL | C(C)O | C2H6O
product | N1-(4-bromophenyl)-2-fluoro-1-benzeneamidoxime | 0.00392 mol, 1.21 g | BrC1=CC=C(C=C1)NC(C1=C(C=CC=C1)F)=NO | C13H10BrFN2O
